US09062034B2
(c) tert.butyl(R)-[1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-3-(1H-tetrazol-5-yl)-propyl]-carbamate
200 mg (0.52 mmol) tert.butyl(R)-[3-cyano-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-propyl]carbamate are placed in 1 ml DMF and combined with 80 mg (1.23 mmol) sodium azide and 66 mg (1.23 mmol) ammonium chloride. The reaction mixture is stirred overnight at 100° C., then acidified with TFA and separated using RP material (eluant: water/acetonitrile 95:5=>5:95).

reactant | tert.butyl(R)-[3-cyano-1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-propyl]carbamate | 0.52 mmol, 200 mg | C(#N)CC[C@H](C(NC1=CC2=C(CCN(CC2)C)C=C1)=O)NC(OC(C)(C)C)=O | C21H30N4O3
reactant | sodium azide | 1.23 mmol, 80 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.23 mmol, 66 mg | [Cl-].[NH4+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert.butyl(R)-[1-(3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylcarbamoyl)-3-(1H-tetrazol-5-yl)-propyl]-carbamate | CN1CCC2=C(CC1)C=C(C=C2)NC(=O)[C@@H](CCC2=NN=NN2)NC(OC(C)(C)C)=O | C21H31N7O3
